US07582625B2
3c) (R)-1-(4-hydroxy-3,5-dimethyl -benzyl)-2-oxo-2-{1′-[2-(2-oxo-pyrrolidin-1-yl)-ethoxycarbonyl-methyl]-4,4′-bipiperidinyl-1-yl}-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 80 mg (0.12 mmol) (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 45 mg (0.14 mmol) TBTU and 32 μL (0.23 mmol) triethylamine in 1.2 mL DMF was stirred for 1 h at RT. Then 26 mg (0.23 mmol) 1-(2-hydroxy-ethyl)-pyrrolidin-2-one were added and the reaction mixture was stirred overnight at RT. The reaction solution was mixed with 5 drops of formic acid, filtered through a syringe filter and purified directly by HPLC without any further working up. The fractions containing the product were combined, extracted with 30 mL EtOAc, the organic phase was made alkaline with 5% NaHCO3 solution, separated off and dried on Na2SO4. After the elimination of the desiccant and solvent the residue was triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(1′-carboxymethyl-4,4′-bipiperidinyl-1-yl)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)C1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C38H51N5O7
reactant | TBTU | 0.14 mmol, 45 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.23 mmol, 32 μL | C(C)N(CC)CC | C6H15N
reactant | 1-(2-hydroxy-ethyl)-pyrrolidin-2-one | 0.23 mmol, 26 mg | OCCN1C(CCC1)=O | C6H11NO2
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | formic acid | 5 drops | C(=O)O | CH2O2
product | (R)-1-(4-hydroxy-3,5-dimethyl -benzyl)-2-oxo-2-{1′-[2-(2-oxo-pyrrolidin-1-yl)-ethoxycarbonyl-methyl]-4,4′-bipiperidinyl-1-yl}-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)C1CCN(CC1)CC(=O)OCCN1C(CCC1)=O)=O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C44H60N6O8
